US07745641B2
In a similar manner to Step. 3 of Example 16, 4-chloro-5-methyl-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone (400 mg, 1.27 mmol) was dissolved in THF (16 mL), and the solution was treated with TMEDA (0.33 mL, 2.2 mmol), sec-butyl lithium-hexane solution (1.01 mol/L, 2.8 mL, 2.8 mmol) and iodine (387 mg, 1.52 mmol), followed by purification by flash column chromatography (hexane/ethyl acetate=95/5 to 80/20 to 70/30) to obtain 4-chloro-5-methyl-3-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone (352 mg, yield 63%).

reactant | 4-chloro-5-methyl-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone | 1.27 mmol, 400 mg | ClC1=C2C(N(C(C2=CC=C1C)=O)C(C)(C1=CC=CC=C1)C)O | C18H18ClNO2
reactant | TMEDA | 2.2 mmol, 0.33 mL | CN(C)CCN(C)C | C6H16N2
reactant | iodine | 1.52 mmol, 387 mg | II | I2
solvent | THF | 16 mL | C1CCOC1 | C4H8O
product | 4-chloro-5-methyl-3-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone | 352 mg, yield 63% | ClC1=C2C(N(C(C2=C(C=C1C)I)=O)C(C)(C1=CC=CC=C1)C)O | C18H17ClINO2
